US06677349B1
Using the general method of Example 242, 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.53 g, 5.11 mmol) was reacted with benzenesulfonyl chloride (993 mg, 5.62 mmol) to provide 1.37 g of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzenesulfonamide as a white powder, m.p. 149-151° C. Analysis: Calculated for C22H25N5O3S: %C, 60.12; %H, 5.73; %N, 15.93; Found: %C, 60.40; %H, 5.82; %N, 15.85.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.11 mmol, 1.53 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | benzenesulfonyl chloride | 5.62 mmol, 993 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzenesulfonamide | 1.37 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C2=CC=CC=C2)CCOC | C22H25N5O3S
